US06812229B1
0.15 g of sodium hydroxide and 0.60 g of methyl N-(2-chloro-5-cyanomethylbenzyl)carbamate were added to 5 ml of ethanol, and 0.40 g of t-butyl nitrite was added to the mixture at room temperature, followed by stirring for 72 hours. After completion of the reaction, the reaction solution was poured into water, extraction with ethyl acetate was carried out, followed by washing with water, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (Wakogel C-200, eluent: hexane/ethyl acetate=3/1) to obtain 0.46 g of 2-[4-chloro-3-(methoxycarbonylaminomethyl)phenyl]-2-hydroxyiminoacetonitrile as a colorless viscous liquid.

reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
reactant | methyl N-(2-chloro-5-cyanomethylbenzyl)carbamate | 0.60 g | ClC1=C(CNC(OC)=O)C=C(C=C1)CC#N | C11H11ClN2O2
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | t-butyl nitrite | 0.40 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[4-chloro-3-(methoxycarbonylaminomethyl)phenyl]-2-hydroxyiminoacetonitrile | 0.46 g | ClC1=C(C=C(C=C1)C(C#N)=NO)CNC(=O)OC | C11H10ClN3O3
